*****************************************************************
* NXP PSMN022_30PL
*
* Polarity N-Channel
* Ratings 30V/2.20E-02OHMS/5A
*
* Date Created Sun Oct 24 02:25:57 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN022_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.84352119838705e-09
RLS2 SOURCE 8 7.14654220931262
RLS1 8 7 0.00149352119838705

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0150172269596781 TC=0.00419307481818839,1.99222019197122e-05
RBD 9 4 0.0063723192359272 TC=0.00419307481818839,1.99222019197122e-05
DBD 7 9 DBD
 
M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.05937062937063e-10
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	605
+ -8	604
+ -6	600
+ -4	596
+ -2	405
+ 0	0
+ 0.1	120
+ 0.2	119
+ 0.5	118
+ 1	112
+ 2	83
+ 5	68
+ 10	61
+ 15	57
+ 25	51
+ 30	49



.MODEL MINT NMOS(Vto=2.15367623911318 Kp=2.4896e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=7.69999650266703e-14
+ N=1 M=0.59 VJ=0.99 Fc=0.5 Cjo=2.1417e-10 Tt=2.206e-08)

.ENDS